US07851473B2
4-[4-(3-Fluorophenyl)-1,3-thiazol-2-yl]-N-(1-methyl-1H-pyrazol-5-yl)piperazine-1-carboxamide
A mixture of trichloromethyl 2,2,2-trichloroethyl (1-methyl-1H-pyrazol-5-yl)imidodicarbonate (255 mg, 0.570 mmol), 4-[4-(3-fluorophenyl)-1,3-thiazol-2-yl]piperazine (300 mg, 1.14 mmol) and diisopropylethylamine (0.198 ml, 1.14 mmol) in dimethyl sulfoxide (3.8 ml) was stirred at 70° C. for 16 hours. Water was poured to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with water, and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate), and recrystallized from a mixed solvent of hexane and tetrahydrofuran to give 129 mg (58.8%) of the desired product as a solid.

reactant | trichloromethyl 2,2,2-trichloroethyl (1-methyl-1H-pyrazol-5-yl)imidodicarbonate | 0.570 mmol, 255 mg | CN1N=CC=C1N(C(=O)OC(Cl)(Cl)Cl)C(=O)OCC(Cl)(Cl)Cl | C9H7Cl6N3O4
reactant | 4-[4-(3-fluorophenyl)-1,3-thiazol-2-yl]piperazine | 1.14 mmol, 300 mg | FC=1C=C(C=CC1)C=1N=C(SC1)N1CCNCC1 | C13H14FN3S
reactant | diisopropylethylamine | 1.14 mmol, 0.198 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 3.8 ml | CS(=O)C | C2H6OS
product | 4-[4-(3-Fluorophenyl)-1,3-thiazol-2-yl]-N-(1-methyl-1H-pyrazol-5-yl)piperazine-1-carboxamide | 129 mg, 58.8% | FC=1C=C(C=CC1)C=1N=C(SC1)N1CCN(CC1)C(=O)NC1=CC=NN1C | C18H19FN6OS
